US09078444B2
Benzylmercaptan (0.18 g) and a solution of sodium hydroxide (0.1 eq) were added to a solution of (E)-1-(4-Bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-en-1-one (0.5 g) in tetrahydrofurane (11.4 mL). The solution was stirred at room temperature for 19 hours then heated at 80° C. for 4 hours. Then, more benzylmercaptan (0.5 mL) was added and the solution was stirred at 80° C. for 16 hours. More sodium hydroxide (20 mg) was added and after 90 minutes, the reaction was quenched by the addition of a saturated solution of sodium chloride, and then extracted with diethyl ether. The collected organic phases were dried over magnesium sulfate, filtered and the filtrate was evaporated under vacuo. The residue was purified by chromatography on silica gel (eluent: cyclohexane/ethyl acetate) to give 3-Benzylsulfanyl-1-(4-bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butan-1-one (276 mg).

reactant | Benzylmercaptan | 0.18 g | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydroxide | 0.1 eq | [OH-].[Na+]
reactant | (E)-1-(4-Bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-en-1-one | 0.5 g | BrC1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C | C17H10BrCl2F3O
reactant | benzylmercaptan | 0.5 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | sodium hydroxide | 20 mg | [OH-].[Na+]
solvent | tetrahydrofurane | 11.4 mL | O1CCCC1 | C4H8O
product | 3-Benzylsulfanyl-1-(4-bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butan-1-one | 276 mg | C(C1=CC=CC=C1)SC(CC(=O)C1=CC(=C(C=C1)Br)C)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C24H18BrCl2F3OS
